US08629271B2
a) (3-(2,2-Diethoxyethoxy)phenyl)methanol
Cesium carbonate (7.87 g) was added to a solution of 3-(hydroxymethyl)phenol (2.5 g) and 2-bromo-1,1-diethoxyethane (3.97 g) in DMF (40 mL) and the resultant mixture was heated at 90° C. for 18 hours. The mixture was cooled to room temperature and partitioned between ethyl acetate and brine, the organic layer was washed twice with brine, dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The crude product was purified by flash silica chromatography using 30% ethyl acetate in isohexane as solvent. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 1.9 g.

reactant | Cesium carbonate | 7.87 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(hydroxymethyl)phenol | 2.5 g | OCC=1C=C(C=CC1)O | C7H8O2
reactant | 2-bromo-1,1-diethoxyethane | 3.97 g | BrCC(OCC)OCC | C6H13BrO2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (3-(2,2-Diethoxyethoxy)phenyl)methanol | C(C)OC(COC=1C=C(C=CC1)CO)OCC | C13H20O4
